US06599917B1
f) 4-Benzyl-5-bromo-2-methoxypyridine
A mixed solution of 22 ml of bromine, 90 g of potassium bromide and 500 ml of water was added dropwise into a mixture of 73 g of 4-benzyl-2-methoxypyridine, 28 g of potassium hydroxide, 1.7 g of tetraethylammonium chloride, 90 g of potassium bromide and 500 ml of water under stirring in an ice bath. After stirring overnight, sodium sulfite was added thereto and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and the solvent was removed. The residue was subjected to silica gel column chromatography using 5-10% ethyl acetate/hexane, to give 62 g of the target compound.

reactant | bromine | 22 ml | BrBr | Br2
reactant | potassium bromide | 90 g | [Br-].[K+]
reactant | 4-benzyl-2-methoxypyridine | 73 g | C(C1=CC=CC=C1)C1=CC(=NC=C1)OC | C13H13NO
reactant | potassium hydroxide | 28 g | [OH-].[K+]
reactant | potassium bromide | 90 g | [Br-].[K+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetraethylammonium chloride | 1.7 g | [Cl-].C(C)[N+](CC)(CC)CC
solvent | water | 500 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 4-Benzyl-5-bromo-2-methoxypyridine | 62 g | C(C1=CC=CC=C1)C1=CC(=NC=C1Br)OC | C13H12BrNO
